US04292243
3'-Phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]-4-one
A mixture of 3.22 g of 3"-phenyldispiro[1,3-dioxolane-2,1'-cyclohexane-4',1"(3"H)-isobenzofuran], 350 ml of methanol and 10 ml of 5% hydrochloric acid is stirred at room temperature for 4 hours. The solvent is removed under reduced pressure and the residue crystallizes with 50 ml of water, suction filtered, washed with water and dried. Recrystallization from 200 ml of hexane provides 71.8% of product, mp 143°-145° C.

reactant | 3"-phenyldispiro[1,3-dioxolane-2,1'-cyclohexane-4',1"(3"H)-isobenzofuran] | 3.22 g | C1(=CC=CC=C1)C1OC2(C3=CC=CC=C13)CCC1(CC2)OCCO1 | C21H22O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
product | 3'-Phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]-4-one | 71.8% | C1(=CC=CC=C1)C1OC2(C3=CC=CC=C13)CCC(CC2)=O | C19H18O2
